US07456200B2
3-Pyridin-4-yl-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrimidine
A solution of 750 mg (3.1 mmol) (1,4,5,6-tetrahydro-pyrimidin-2-yl)-hydrazine hydroiodide (ref. Krezel, Izabella; Pharmazie; EN; 49; 1; 1994; 27-31) and 552 mg (3.1 mmol) isonicotinoyl chloride hydrochloride in 3 ml pyridine was heated at 120° C. over night. The reaction mixture was cooled and diluted with K2CO3(sat) and extracted with 3×10 ml chloroform. The combined organic extracts were dried and concentrated. Flashchromatography (CH2Cl2/MeOH 10:1) afforded 83 mg (18%) of a white solid. 1H NMR (CDCl3), d (ppm): 1.91 (m, 2 H) 3.24 (m, 2 H) 4.13 (m, 2 H) 7.67 (m, 2 H) 8.65 (m, 2 H).

reactant | (1,4,5,6-tetrahydro-pyrimidin-2-yl)-hydrazine hydroiodide | 3.1 mmol, 750 mg | I.N1C(=NCCC1)NN
reactant | isonicotinoyl chloride hydrochloride | 3.1 mmol, 552 mg | Cl.C(C1=CC=NC=C1)(=O)Cl
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 3-Pyridin-4-yl-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrimidine | 83 mg, 18% | N1=CC=C(C=C1)C1=NN=C2N1CCCN2 | C10H11N5
